US08084484B2
f) N-(4-tert-Butyl-benzyl)-2-(3,4-diamino-phenyl)-propionamide
2-(3,4-Diaminophenyl)propanoic acid (436 mg, 2.42 mmol) in DMF (5 mL) was added 4-t-butylbenzylamine (399 mg, 2.44 mmol), EDC (702 mg, 3.66 mmol), HOBt (496 mg, 3.67 mmol), triethylamine (617 mg, 6.10 mmol) at 0° C. The reaction mixture was stirred for 16 hours at room temperature, and then the mixture was added water (50 mL) and extracted with methylene chloride. The organic layer was dried with MgSO4 and filtered. Methylene chloride was removed by evaporation. The residue was purified by column chromatography eluting with CH2Cl2/MeOH=20/1.

reactant | 2-(3,4-Diaminophenyl)propanoic acid | 2.42 mmol, 436 mg | NC=1C=C(C=CC1N)C(C(=O)O)C | C9H12N2O2
reactant | 4-t-butylbenzylamine | 2.44 mmol, 399 mg | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | EDC | 3.66 mmol, 702 mg
reactant | HOBt | 3.67 mmol, 496 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 6.10 mmol, 617 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-(4-tert-Butyl-benzyl)-2-(3,4-diamino-phenyl)-propionamide | C(C)(C)(C)C1=CC=C(CNC(C(C)C2=CC(=C(C=C2)N)N)=O)C=C1 | C20H27N3O
